US07713994B2
A solution of dimethyl-[2-(4-nitro-phenoxy)-ethyl]-amine hydrochloride (0.29 g, 1.2 mmol) in ethanol (20 mL) is hydrogenated at atmospheric pressure over 10% palladium on carbon. The reaction mixture is filtered through a pad of diatomaceous earth and concentrated to give 4-(2-dimethylamino-ethoxy)-phenylamine hydrochloride (0.24 g, 96%).

reactant | dimethyl-[2-(4-nitro-phenoxy)-ethyl]-amine hydrochloride | 1.2 mmol, 0.29 g | Cl.CN(CCOC1=CC=C(C=C1)[N+](=O)[O-])C
solvent | ethanol | 20 mL | C(C)O | C2H6O
catalyst | palladium on carbon | [Pd] | Pd
product | 4-(2-dimethylamino-ethoxy)-phenylamine hydrochloride | 0.24 g, 96% | Cl.CN(CCOC1=CC=C(C=C1)N)C | InChI=1S/C10H16N2O.ClH/c1-12(2)7-8-13-10-5-3-9(11)4-6-10;/h3-6H,7-8,11H2,1-2H3;1H
